US07482341B2
Step D]: 5-Cyclopropylmethoxymethyl-pyridin-2-ylamine
This material was prepared in analogy to example 86 step B] from N-(5-cyclopropylmethoxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide (0.87 g) and 3M aqueous NaOH (5.54 mL) as a yellow solid (0.527 g). MS (ESI): 179.1 (MH+).

reactant | N-(5-cyclopropylmethoxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 0.87 g | C1(CC1)COCC=1C=CC(=NC1)NC(C(C)(C)C)=O | C15H22N2O2
reactant | NaOH | 3M, 5.54 mL, 0.527 g | [OH-].[Na+]
product | 5-Cyclopropylmethoxymethyl-pyridin-2-ylamine | C1(CC1)COCC=1C=CC(=NC1)N | C10H14N2O
